US07157487B2
To a solution of 1-benzylindole-3-carboxylic acid (201.3 mg, 0.801 mmol) in methylene chloride (4.0 ml) was added oxalyl chloride (103.1 μl, 1.202 mmol) under stirring at −15° C. The reaction mixture was stirred at room temperature for 2.5 hours and then, distilled under reduced pressure to remove the solvent. The residue was dissolved in methylene chloride (4.0 ml) and to the resulting solution were added a solution of methyl 3-chloro-4-aminophenylacetate (167.9 mg, 0.841 mmol) in methylene chloride (4.0 ml) and triethylamine (0.35 ml, 2.523 mmol) under stirring at room temperature. The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was diluted with chloroform, washed with 1N HCl, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby methyl 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetate (341.3 mg, 98%) was obtained. The compound was provided for the subsequent reaction without further purification.

reactant | 1-benzylindole-3-carboxylic acid | 0.801 mmol, 201.3 mg | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C16H13NO2
reactant | oxalyl chloride | 1.202 mmol, 103.1 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 3-chloro-4-aminophenylacetate | 0.841 mmol, 167.9 mg | ClC=1C=C(C=CC1N)CC(=O)OC | C9H10ClNO2
reactant | triethylamine | 2.523 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4.0 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-((1-benzyl-3-indolylcarbonyl)amino)-3-chlorophenylacetate | 341.3 mg, 98% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(=O)NC1=C(C=C(C=C1)CC(=O)OC)Cl | C25H21ClN2O3
